US05418224
5 g of erythromycin A and 4.7 g of sodium acetate (×3 H2O) were dissolved in 200 ml of an 8:2 methanol/water mixture. 1.75 g of iodine were added to the solution, and the reaction mixture was then irradiated with a quartz lamp at room temperature for 20 minutes. Subsequently, half the solvent was evaporated, and the remaining reaction mixture was poured into a mixture of 140 ml of water and 10 ml of ammonia. The reaction mixture was extracted three times with 20 ml portions of methyl t-butyl ether. The ether extract was separated and some of the ether was evaporated. The reaction product was then left to crystallize out and was recrystallized from acetone. 2 g of N-demethylerythromycin A were obtained.

reactant | erythromycin A | 5 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | sodium acetate | 4.7 g | C(C)(=O)[O-].[Na+]
reactant | iodine | 1.75 g | II | I2
reactant | ammonia | 10 ml | N | H3N
solvent | methanol water | 200 ml | CO.O
solvent | water | 140 ml | O | H2O
product | N-demethylerythromycin A | 2 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)NC)O)(C)O)C)C)O)(C)O | C36H65NO13
